US07473694B2
Synthesis of tert-butyl (S)-3-{10-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7,8,9-tetrahydro-1,4,5,10a-tetraazacyclohepta[f]inden-5-yl}piperidine-1-carboxylate
tert-Butyl(S)-3-{10-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,9-dihydro-1,4,5,10a-tetraazacyclohepta[f]inden-5-yl}piperidine-1-carboxylate (12.5 mg) was hydrogenated in the presence of palladium-carbon (15 mg) in ethanol (1.2 mL) under a hydrogen atmosphere. After the reaction, the palladium-carbon was filtered off, and the filtrate was concentrated. The residue was used for the subsequent reaction without purification.

reactant | tert-Butyl(S)-3-{10-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,9-dihydro-1,4,5,10a-tetraazacyclohepta[f]inden-5-yl}piperidine-1-carboxylate | 12.5 mg | C(C)(C)(C)OC(=O)N(C=1N2N=CC=C2N=C2C1CC=CCN2[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)OCC | C33H44N6O5
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 15 mg | [C].[Pd]
product | tert-butyl (S)-3-{10-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7,8,9-tetrahydro-1,4,5,10a-tetraazacyclohepta[f]inden-5-yl}piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C=1N2N=CC=C2N=C2C1CCCCN2[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)OCC | C33H46N6O5
